US08378095B2
A solution of palladium acetate (0.0057 g, 0.025 mmol) and (±)-2,2″-bis(diphenylphosphino)-1,1″-binaphthalene (0.015 g, 0.024 mmol) in DMF (7.1 mL) was stirred at room temperature for 3 minutes. Then 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile (0.100 g, 0.35 mmol), 4-morpholinoaniline (0.250 g, 1.40 mmol) and potassium phosphate tribasic (0.149 g, 0.70 mmol) were added and the mixture heated in the microwave for 3 minutes at 180° C. The reaction was diluted with EtOAc and washed with water. The organic phase was passed through a MP-SH resin cartridge, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by silica gel column chromatography using a gradient 10-100% EtOAc in hexanes to afford 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carbonitrile (0.035 g, 0.09 mmol, 26%) as an off white solid. 1H NMR (DMSO) δ 3.08 (4H, t), 3.74 (4H, t), 6.97 (2H, d), 7.24 (2H, d), 7.33 (2H, t), 7.64 (1H, m), 10.58 (1H, s). LCMS (2) Rt: 2.92 min; m/z (ES+) 383.

reactant | 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile | 0.35 mmol, 0.100 g | BrC1=C(N=C(O1)C1=C(C=CC=C1F)F)C#N | C10H3BrF2N2O
reactant | 4-morpholinoaniline | 1.40 mmol, 0.250 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | potassium phosphate tribasic | 0.70 mmol, 0.149 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 7.1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.025 mmol, 0.0057 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(2,6-difluorophenyl)-5-(4-morpholinophenylamino)oxazole-4-carbonitrile | 0.09 mmol, 0.035 g, 26% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C#N)NC1=CC=C(C=C1)N1CCOCC1 | C20H16F2N4O2
